US06624163B2
4-(Acetylamino-methyl)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
Using N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-aminomethyl-benzamide and acetyl chloride, the title compound was prepared as white crystals (17% yield). MS: m/e=441(M+H+).

reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-aminomethyl-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CN)=O)N2CCOCC2 | C20H22N4O3S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-(Acetylamino-methyl)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | C(C)(=O)NCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C22H24N4O4S
